US07598423B2
Synthesis of 1-[4-(4-{[4-fluoro-3-(2H-tetrazol-5-yl)-phenyl]-hydroxy-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone
Add p-toluenesulfonic acid (2.00 mg, 0.012 mmol) to a solution of 1-(4-{4-[[4-fluoro-3-(2H-tetrazol-5-yl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-2-hydroxy-3-propyl-phenyl)-ethanone (0.130 g, 0.232 mmol) in methanol (0.2 M) and stir for 24 h. Evaporate solvent and filter through a pad of silica gel to afford the title compound (0.100 g, 0.220 mmol, 91%): MS (m/z): 475 (M−1).

reactant | p-toluenesulfonic acid | 0.012 mmol, 2.00 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(4-{4-[[4-fluoro-3-(2H-tetrazol-5-yl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-2-hydroxy-3-propyl-phenyl)-ethanone | 0.232 mmol, 0.130 g | FC1=C(C=C(C=C1)C(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)OC1OCCCC1)C=1N=NNN1 | C31H33FN4O5
solvent | methanol | 0.2 M | CO | CH4O
product | 1-[4-(4-{[4-fluoro-3-(2H-tetrazol-5-yl)-phenyl]-hydroxy-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 0.220 mmol, 0.100 g, 91% | FC1=C(C=C(C=C1)C(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)O)C=1N=NNN1 | C26H25FN4O4
